US05318966
In an analogous manner to that described in Example 20a), from rac-cis-2,3,3a,4,5,9b-hexahydro-6-methoxy-1H-benzo[e]indole by reaction with N-(6-bromo-hexyl)-3,3-dimethylglutarimide there was obtained rac-cis-1-[6-(6-methoxy-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]indol-3-yl)-hexyl]-4,4-dimethylpiperidine-2,6-dione; m.p. of the hydrochloride 99°-101°, yellowish crystals, yield 72%.

reactant | rac-cis-2,3,3a,4,5,9b-hexahydro-6-methoxy-1H-benzo[e]indole | COC1=CC=CC=2[C@H]3CCN[C@H]3CCC21 | C13H17NO
reactant | N-(6-bromo-hexyl)-3,3-dimethylglutarimide | BrCCCCCCN1C(CC(CC1=O)(C)C)=O | C13H22BrNO2
product | rac-cis-1-[6-(6-methoxy-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]indol-3-yl)-hexyl]-4,4-dimethylpiperidine-2,6-dione | yield 72% | COC1=CC=CC=2[C@H]3CCN([C@H]3CCC21)CCCCCCN2C(CC(CC2=O)(C)C)=O | C26H38N2O3
